US07595327B2
According to the procedure of Example 17, Step 5, the reaction of 122 mg of cis-1-(tert-butoxycarbonyl)-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]pyrrolidine-3-carboxylic acid with hydroxylamine provided 104 mg (81% yield) of tert-butyl cis-3-[(hydroxyamino)carbonyl]-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]pyrrolidine-1-carboxylate. MS: 557.3 (M+H)+

reactant | cis-1-(tert-butoxycarbonyl)-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]pyrrolidine-3-carboxylic acid | 122 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](C1)NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)C(=O)O | C27H31N3O7S
reactant | hydroxylamine | NO | H3NO
product | tert-butyl cis-3-[(hydroxyamino)carbonyl]-4-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]pyrrolidine-1-carboxylate | 104 mg, 81% yield | ONC(=O)[C@@H]1CN(C[C@@H]1NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C)C(=O)OC(C)(C)C | C27H32N4O7S
